US05409886
To 15 ml of toluene were added 2.2 g of N-[1-methyl-1-(3,5-dichlorophenyl)ethyl]-N-(1-methyl-2-oxopropyl)-2-phenylacetamide and 3.5 g of 1,8-diazabicyclo[5.4.0]undecene-7 (DBU), followed by stirring at room temperature for 1 hour. After water was added, the solution was extracted with ethyl acetate, and then dried over anhydrous sodium sulfate. After the solvent was distilled off, the solution was subjected to silica gel column chromatography to obtain 1.1 g of the desired 1-[1-methyl-1-(3,5-dichlorophenyl)ethyl]-4,5-dimethyl-3-phenyl-3-pyrroline-2-one.

reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
reactant | N-[1-methyl-1-(3,5-dichlorophenyl)ethyl]-N-(1-methyl-2-oxopropyl)-2-phenylacetamide | 2.2 g | CC(C)(C1=CC(=CC(=C1)Cl)Cl)N(C(CC1=CC=CC=C1)=O)C(C(C)=O)C | C21H23Cl2NO2
solvent | water | O | H2O
product | 1-[1-methyl-1-(3,5-dichlorophenyl)ethyl]-4,5-dimethyl-3-phenyl-3-pyrroline-2-one | 1.1 g | CC(C)(C1=CC(=CC(=C1)Cl)Cl)N1C(C(=C(C1C)C)C1=CC=CC=C1)=O | C21H21Cl2NO
